US08309734B2
Step 1: 2-(2,5-Dichloro-phenoxy)-benzoic acid
To a solution of 2-iodo-benzoic acid (3.0 g, 12.10 mmol, 1.0 equiv; [CAS RN 88-67-5]) and 2,5-dichloro-phenol (1.97 g, 12.10 mmol, 1.0 equiv; [CAS RN 583-78-8]) in toluene (50 mL) was added caesium carbonate (7.88 g, 24.20 mmol, 2.0 equiv; [CAS RN 534-17-8]) and tetrakis(acetonitrile)copper(I) hexafluorophosphate (1.13 g, 3.02 mmol, 0.25 equiv; [CAS RN 64443-05-6]). The reaction mixture was heated to reflux over night. The solvent was evaporated under reduced pressure and the crude reaction product taken up in water (100 mL), acidified to pH 1 by addition of a solution of 1 M HCl and extracted with ethyl acetate (3×100 mL). The combined organic phases were dried over MgSO4 and the product purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane (+1% acetic acid)/ethyl acetate affording 2.78 g (81%) of the title compound as a white solid. MS (ISN): 281.1 [M−H]−.

reactant | 2-iodo-benzoic acid | 12.10 mmol, 3.0 g, 1.0 equiv | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | 2,5-dichloro-phenol | 12.10 mmol, 1.97 g, 1.0 equiv | ClC1=C(C=C(C=C1)Cl)O | C6H4Cl2O
reactant | caesium carbonate | 24.20 mmol, 7.88 g, 2.0 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | HCl | 1 M | Cl | ClH
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 mL | O | H2O
catalyst | tetrakis(acetonitrile)copper(I) hexafluorophosphate | 3.02 mmol, 1.13 g, 0.25 equiv | CC#N.CC#N.CC#N.CC#N.F[P-](F)(F)(F)(F)F.[Cu+]
product | 2-(2,5-Dichloro-phenoxy)-benzoic acid | ClC1=C(OC2=C(C(=O)O)C=CC=C2)C=C(C=C1)Cl | C13H8Cl2O3
